US08802673B2
To a stirred solution of tert-butyl (RS)-2-(6-(diphenylmethyleneamino)pyridin-3-yl)morpholine-4-carboxylate (370 mg) in methanol (20 ml) was added ammonium formate (789 mg). The reaction mixture was degassed by bubbling argon into the mixture for several minutes. 10% Palladium on activated charcoal (44 mg) was then added and the reaction mixture was stirred at 60° C. for 1 hour. The reaction mixture was then filtered through celite and the filtrate was concentrated in vacuo. The residue was taken up in EtOAc and the mixture was washed sequentially with water and with saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: heptane/dichloromethane/MeOH) to afford tert-butyl (RS)-2-(6-aminopyridin-3-yl)morpholine-4-carboxylate (171 mg, 73%) as a light yellow oil. MS (ISP): 280.2 ([M+H]+).

reactant | tert-butyl (RS)-2-(6-(diphenylmethyleneamino)pyridin-3-yl)morpholine-4-carboxylate | 370 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C | C27H29N3O3
reactant | ammonium formate | 789 mg | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
product | tert-butyl (RS)-2-(6-aminopyridin-3-yl)morpholine-4-carboxylate | 171 mg, 73% | NC1=CC=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C | C14H21N3O3
